US05639786
(i) 5-(Acetylamino)-4-cyanoamino-2,6-anhydro-3,4,5-trideoxy-D-glycero-D-galacto- non-2-enonic acid
5-(Acetylamino)-4-amino-2,6-anhydro-3,4,5-trideoxy-D-glycero-D-galacto-non-2-enonic acid (3 g, 10.35 mmol) was suspended in methanol (37.5 ml) and sodium acetate (1.89 g, 23.1 mmol) was added, causing a "caking" of the suspension and making stirring difficult. To this at 21° C. with exclusion of moisture was added a solution of cyanogen bromide (1.14 g, 10.8 mmol) in methanol (150 ml), in a dropwise manner. Stirring gradually became easier, until a readily stirrable suspension was obtained. Addition was complete in 3.5 hr. The mixture was then stirred at 21° C. with exclusion of moisture for 44 hr. The small amount of remaining solid was filtered off and solvent evaporated in vacuo to an orange-brown foam. The foam was taken up in methanol (125 ml) and with rapid stirring at 21° C. was treated dropwise with propan-2-ol (130 ml). The precipitate was filtered off, washed with iPrOH:MeOH 3:2, and combined filtrate and washings evaporated to give the title compound as a pale yellow foam (3.48 g).

reactant | 5-(Acetylamino)-4-amino-2,6-anhydro-3,4,5-trideoxy-D-glycero-D-galacto-non-2-enonic acid | 10.35 mmol, 3 g | C(C)(=O)N[C@@H]1[C@H](C=C(C(=O)O)O[C@H]1[C@H](O)[C@H](O)CO)N | C11H18N2O7
reactant | sodium acetate | 23.1 mmol, 1.89 g | C(C)(=O)[O-].[Na+]
reactant | cyanogen bromide | 10.8 mmol, 1.14 g | N#CBr | CBrN
solvent | methanol | 37.5 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | 5-(Acetylamino)-4-cyanoamino-2,6-anhydro-3,4,5-trideoxy-D-glycero-D-galacto- non-2-enonic acid | 3.48 g | C(C)(=O)N[C@@H]1[C@H](C=C(C(=O)O)O[C@H]1[C@H](O)[C@H](O)CO)NC#N | C12H17N3O7
